US08530651B2
To a solution of 2,3-dichloro-6-nitrobenzaldehyde (7.62 g, 34.9 mmol) in tetrahydrofuran (75 mL) was added sodium borohydride (1.31 g, 34.9 mmol) followed by ethanol (1.75 mL), and the mixture was stirred for 1.5 hours. Saturated aqueous ammonium chloride (75 mL) was added, and the solution was extracted three times with EtOAc. The combined organic layers were dried (MgSO4) and then concentrated to give 2,3-dichloro-6-nitrobenzyl alcohol, as an oil which crystallised, 7.62 g (98%).

reactant | 2,3-dichloro-6-nitrobenzaldehyde | 34.9 mmol, 7.62 g | ClC1=C(C=O)C(=CC=C1Cl)[N+](=O)[O-] | C7H3Cl2NO3
reactant | sodium borohydride | 34.9 mmol, 1.31 g | [BH4-].[Na+]
reactant | ethanol | 1.75 mL | C(C)O | C2H6O
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 2,3-dichloro-6-nitrobenzyl alcohol | ClC1=C(CO)C(=CC=C1Cl)[N+](=O)[O-] | C7H5Cl2NO3
